US08580762B2
Step 1: Synthesis of cis and trans methyl 3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)amino)cyclobutanecarboxylate
A solution of methyl 3-oxocyclobutanecarboxylate (4.60 g, 35.94 mmol), 9-((3aR,4R,6R,6aR)-6-(aminomethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-amine (11.0 g, 35.94 mmol) and Ti(iPrO)4 (4.0 g, 14.08 mmol) in MeOH (80 mL) was stirred at 45° C. for 2 h, then NaCNBH3 (4.5 g, 71.87 mmol) was added. The reaction was stirred at RT overnight. The reaction was quenched with aq. sat. NaHCO3 (40 mL) and filtered, extracted with DCM (80 mL×3), dried over Na2SO4 and concentrated. The residue was purified by preparative-HPLC to obtain the title compound (6.2 g, Yield 41%). 1H NMR (500 MHz, CDCl3): δH 8.38-8.34 (m, 1H), 7.90 (s, 1H), 5.98 (d, J=3.0 Hz, 1H), 5.75 (br s, 2H), 5.48-5.46 (m, 1H), 5.03-5.01 (m, 1H), 4.35-4.33 (m, 1H), 3.69-3.66 (m, 3H), 3.50-3.17 (m, 1H), 3.05-2.73 (m, 3H), 2.48-2.44 (m, 2H), 1.95-1.91 (m, 2H), 1.62 (s, 3H), 1.39 (s, 3H) ppm; ESI-MS (m/z): 419.2 [M+1]+.

reactant | methyl 3-oxocyclobutanecarboxylate | 35.94 mmol, 4.60 g | O=C1CC(C1)C(=O)OC | C6H8O3
reactant | 9-((3aR,4R,6R,6aR)-6-(aminomethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-amine | 35.94 mmol, 11.0 g | NC[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C1=NC=NC(=C1N=C2)N | C13H18N6O3
reactant | NaCNBH3 | 71.87 mmol, 4.5 g | [BH3-]C#N.[Na+]
solvent | MeOH | 80 mL | CO | CH4O
product | trans methyl 3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)amino)cyclobutanecarboxylate | 6.2 g, Yield 41% | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN[C@@H]2C[C@H](C2)C(=O)OC | C19H26N6O5
